US07833694B2
Synthesis of 7-methoxycarbonyl-2-oxohexahydro-3,5-methano-2H-cyclopenta[b]furan-6-yl 4-chlorobutyrate
In 180 ml of tetrahydrofuran were dissolved 21.2 g of methyl 6-hydroxy-2-oxohexahydro-3,5-methano-2H-cyclopenta-[b]furan-7-carboxylate and 16.9 g of 4-chlorobutyric acid chloride. To the solution below 20° C., 9.10 g of pyridine was added dropwise. The solution was stirred at room temperature for 1 hour and combined with 40 g of a 5% aqueous solution of sodium hydrogen carbonate, followed by ordinary work-up. There was obtained 30.4 g of a crude product (crude yield 96%).

reactant | methyl 6-hydroxy-2-oxohexahydro-3,5-methano-2H-cyclopenta-[b]furan-7-carboxylate | 21.2 g | OC1C2CC3C1OC(C3C2C(=O)OC)=O | C10H12O5
reactant | 4-chlorobutyric acid chloride | 16.9 g | ClCCCC(=O)Cl | C4H6Cl2O
reactant | pyridine | 9.10 g | N1=CC=CC=C1 | C5H5N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 180 ml | O1CCCC1 | C4H8O
product | 7-methoxycarbonyl-2-oxohexahydro-3,5-methano-2H-cyclopenta[b]furan-6-yl 4-chlorobutyrate | 30.4 g | ClCCCC(=O)OC1C2CC3C1OC(C3C2C(=O)OC)=O | C14H17ClO6
